US06124354
3-Quinuclidinyl 1-(2-methoxyphenyl)cyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36. 1-(2-Methoxyphenyl)cyclobutanecarbonyl chloride, prepared from the compound prepared in Example 17, was reacted with 3-quinuclidinol at 80° C. for 25 h. A crude product was obtained which was rechromatographed on a reverse-phase PEP RPC HR 30/26 column using a gradient of 25-50% CH3CN with 0.1% TFA. The yield was 0.2 g (6%); mp 121-123° C.; 1H NMR (D2C) δ 1.70-1.85 (m, 2H), 1.93-2.03 (m, 2H), 2.10 (m, 1H), 2.19 (m, 1H), 2.39 (m, 1H), 2.54 (m, 2H), 2.77 (m, 2H), 3.01 (q, 1H), 3.18 (d, 1H), 3.28-3.37 (m, 3H), 3.75 (m, 1H), 3.85 (s, 3H), 5.24 (m, 1H), 7.13 (d, 1H), 7.17 (t, 1H), 7.45 (t, 1H), 7.53 (d, 1H). Anal. (C19H25NO2.HCl.H2O) C, H, N.

reactant | 1-(2-Methoxyphenyl)cyclobutanecarbonyl chloride | COC1=C(C=CC=C1)C1(CCC1)C(=O)Cl | C12H13ClO2
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-Quinuclidinyl 1-(2-methoxyphenyl)cyclobutanecarboxylate Hydrochloride | Cl.COC1=C(C=CC=C1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C19H25NO3.ClH/c1-22-16-6-3-2-5-15(16)19(9-4-10-19)18(21)23-17-13-20-11-7-14(17)8-12-20;/h2-3,5-6,14,17H,4,7-13H2,1H3;1H
